US07244729B2
(3-Chloro-phenyl)-[6-(4-dimethylaminomethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine hydrochloride
Lithium aluminum hydride (72 mg, 1.9 mmol) is suspended in dry THF (12 ml) under a nitrogen atmosphere. Solid 4-[4-(3-chloro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-N,N-dimethyl-benzamide (described in WO 97/02266, 140 mg, 0.37 mmol) is added and the mixture heated to 60° C. for 1 h. The reaction mixture is then hydrolized at 0° C. by sequential addition of water (0.072 ml), 15% sodium hydroxide (0.072 ml) and water (0.21 ml). The precipitate is removed by filtration and the filtrate concentrated on a rotary evaporator. The yellow crystalline residue is suspended in methanol, filtered, suspended in toluene, filtered, suspended in methanol again and filtered to give the free base of the title compound [Rf (dichloromethane/methanol 9:1 plus 1 drop of conc. ammonia)=0.36]. This is suspended in methanol (2 ml) and treated with 1 N hydrochloric acid (0.2 ml). The suspension is stirred well and filtered. The crystals are triturated in methanol/water 9:1 and filtered again to give the title compound; m.p. 280-283° C.; MS-ES+: (M+H)+=378.

reactant | Lithium aluminum hydride | 1.9 mmol, 72 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[4-(3-chloro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-N,N-dimethyl-benzamide | 0.37 mmol, 140 mg | ClC=1C=C(C=CC1)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C(=O)N(C)C)C=C2 | C21H18ClN5O
reactant | sodium hydroxide | 0.072 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 0.2 ml | Cl | ClH
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 0.21 ml | O | H2O
solvent | water | 0.072 ml | O | H2O
product | (3-Chloro-phenyl)-[6-(4-dimethylaminomethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine hydrochloride | Cl.ClC=1C=C(C=CC1)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CN(C)C | InChI=1S/C21H20ClN5.ClH/c1-27(2)12-14-6-8-15(9-7-14)19-11-18-20(23-13-24-21(18)26-19)25-17-5-3-4-16(22)10-17;/h3-11,13H,12H2,1-2H3,(H2,23,24,25,26);1H
